datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)[N+:21]1([H:20])CCCC(=O)C(O)CCC1.NC(=O)c1ccccc1[O-:10]>>CC(C)(C)[N:21]1CCCC(=O)C(O)CCC1.NC(=O)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"C=CCc1ccc([O-:10])c(OC)c1.O=C1[C@H]2C[C@H](C[N+:21]3([H:20])CCCC[C@@H]23)C2=CCCCN12>>C=CCc1ccc([O:10][H:20])c(OC)c1.O=C1[C@H]2C[C@H](C[N:21]3CCCC[C@@H]23)C2=CCCCN12 10=20;20,21=21",
"COc1cc(C)nc(NN)[n+:21]1[H:20].O=C([C@H]1CCC[C@H](O)C1)[O-:10]>>COc1cc(C)nc(NN)[n:21]1.O=C([C@H]1CCC[C@H](O)C1)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(F)(F)F)n[n:21]1[H:20].OCCNC1CC[N:10](Cc2ccccc2)CC1>>Cc1cc(C(F)(F)F)n[n-:21]1.OCCNC1CC[N+:10](Cc2ccccc2)([H:20])CC1 10=20;20,21=21",
"Cn1c(-c2cccc[n+:21]2[H:20])[nH+]c2ccccc21.O=C1C[C@H](C(=O)[O-:10])[C@@H](C(=O)[O-])O1>>Cn1c(-c2cccc[n:21]2)[nH+]c2ccccc21.O=C1C[C@H](C(=O)[O:10][H:20])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(c1)CCC([NH2:10])C2>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(c1)CCC([NH2+:10][H:20])C2 10=20;20,21=21",
"Brc1c[n+](CC[NH2+:21][H:20])cc2ccccc12.CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N:10](C)C>>Brc1c[n+](CC[NH2:21])cc2ccccc12.CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N+:10](C)(C)[H:20] 10=20;20,21=21",
"COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:21]1[H:20].O=C(c1ccccc1)n1c[n:10]c2ccccc21>>COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n:21]1.O=C(c1ccccc1)n1c[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"O=C([O-])C1([NH2:10])CCCCC1.c1ccc2nc3ccc([O:21][H:20])cc3cc2c1>>O=C([O-])C1([NH2+:10][H:20])CCCCC1.c1ccc2nc3ccc([O-:21])cc3cc2c1 10=20;20,21=21",
"CC1CCCC(C)C1C(=O)[O-:10].O=C([O-])CCC#CC#CCCC[NH2+:21][H:20]>>CC1CCCC(C)C1C(=O)[O:10][H:20].O=C([O-])CCC#CC#CCCC[NH2:21] 10=20;20,21=21",
"CC1(C)CC(=O)C(=N[O-:10])C(=O)C1.c1ccc2nc3ccc([O:21][H:20])cc3cc2c1>>CC1(C)CC(=O)C(=N[O:10][H:20])C(=O)C1.c1ccc2nc3ccc([O-:21])cc3cc2c1 10=20;20,21=21",
"CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12.O=[PH]([O-])C(NCc1ccncc1)c1ccccc1[O-:10]>>CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12.O=[PH]([O-])C(NCc1ccncc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CC[NH:10]c1ccccc1.O=[N+]([O-])c1cccc(S(=O)[O:21][H:20])c1>>CC[NH+:10](c1ccccc1)[H:20].O=[N+]([O-])c1cccc(S(=O)[O-:21])c1 10=20;20,21=21",
"CCCC[NH+:21](c1ccccc1)[H:20].CC[As](CC)(CC)=[O:10]>>CCCC[NH:21]c1ccccc1.CC[As](CC)(CC)=[O+:10][H:20] 10=20;20,21=21",
"COC(=O)C(Cc1c[nH]cn1)[NH2:10].c1ccc2c(c1)CCC([NH2+:21][H:20])C2>>COC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20].c1ccc2c(c1)CCC([NH2:21])C2 10=20;20,21=21",
"CN1C(=O)c2[nH]c[n:10]c2N=C1N.[NH3+]C(CC1=CNC(=S)N1)C(=O)[O:21][H:20]>>CN1C(=O)c2[nH]c[n+:10]([H:20])c2N=C1N.[NH3+]C(CC1=CNC(=S)N1)C(=O)[O-:21] 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n:10]2)cc1.O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2ccccc2s1>>CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n+:10]2[H:20])cc1.O=C1Oc2cc([O-:21])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"C/S(C(C)(C)C)=[O+:21]\[H:20].CNc1cc[n:10]c([S-])n1>>CNc1cc[n+:10]([H:20])c([S-])n1.CS(C(C)(C)C)=[O:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CC(c2nnn[n-]2)[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CC(c2nnn[n-]2)[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC([NH3+])c1nnn[n:21]1[H:20].c1ccc(Oc2cccc[n:10]2)cc1>>CC([NH3+])c1nnn[n-:21]1.c1ccc(Oc2cccc[n+:10]2[H:20])cc1 10=20;20,21=21",
"C=C(SC1CCCCC1)C(=O)[O-:10].Cc1ccc([O:21][H:20])c([N+](=O)[O-])c1>>C=C(SC1CCCCC1)C(=O)[O:10][H:20].Cc1ccc([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CCc1cc(C)cc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1cc(C)cc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC12CC3(C)CC(C)(C1)C[N:10](C2)C3.C[NH2+]CCC(N)=[N+:21](O)[H:20]>>CC12CC3(C)CC(C)(C1)C[N+:10]([H:20])(C2)C3.C[NH2+]CCC(N)=[N:21]O 10=20;20,21=21",
"CC(O)C[N+:21](CCO)(C(C)(C)C)[H:20].c1ccc(-c2c[n-:10]c(-c3ccccc3)n2)cc1>>CC(O)C[N:21](CCO)C(C)(C)C.c1ccc(-c2c[n:10]([H:20])c(-c3ccccc3)n2)cc1 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-:10])c(C[NH3+])c2)c(Cl)c1Cl.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)COc1ccc(C(=O)c2ccc([O:10][H:20])c(C[NH3+])c2)c(Cl)c1Cl.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc(CCCC[NH2:10])ccn1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc(CCCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CC1C[NH:10]CC[NH2+]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1C[NH+:10]([H:20])CC[NH2+]1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(O)c1ccc(O)c2c1ccc[n+:21]2[H:20].[NH3+]c1ccccc1C(=O)N[NH2:10]>>O=C(O)c1ccc(O)c2c1ccc[n:21]2.[NH3+]c1ccccc1C(=O)N[NH2+:10][H:20] 10=20;20,21=21",
"CCCC1=C(C)[N:21]([H:20])N(C2CC[NH+](C)CC2)C1=O.O=S(=O)(Nc1ncccn1)c1ccc([NH2:10])cc1>>CCCC1=C(C)[N-:21]N(C2CC[NH+](C)CC2)C1=O.O=S(=O)(Nc1ncccn1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"NCC(=O)NC(CCC(N)=O)C(=O)[O:21][H:20].Oc1ccc(C2SCC[NH:10]2)cc1>>NCC(=O)NC(CCC(N)=O)C(=O)[O-:21].Oc1ccc(C2SCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
